US08283353B2
4′-({4-[4-hydroxy-4-(2-hydroxyethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-{[4-(4-hydroxy-4-prop-2-en-1-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.26 g), osmium oxide (7% immobilized catalyst, 0.19 g), sodium periodate (0.55 g), acetone (5 mL), acetonitrile (5 mL) and water (5 mL) was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate and water, and the insoluble material was filtered off through celite. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in methanol (10 mL), sodium borohydride (0.039 g) was added, and the mixture was stirred at room temperature for 1 hr. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.093 g, 36%).

reactant | 4′-{[4-(4-hydroxy-4-prop-2-en-1-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.26 g | OC1(CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)CC=C | C31H33N5O2
reactant | sodium periodate | 0.55 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetone | 5 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | osmium oxide | 0.19 g | [Os]=O
solvent | water | 5 mL | O | H2O
product | 4′-({4-[4-hydroxy-4-(2-hydroxyethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.093 g, 36% | OC1(CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)CCO | C30H33N5O3
